US06743440B1
Treatments were: 1) C; 2) HS; 3) HS plus 10 ppm AQ; 4) HS plus 5 ppm RUMENSIN® (Elanco, Greenfield, Ind.) and 5) HS plus 10 ppm AQ. Fermentations supplemented with RUMENSIN® were prepared by first dissolving the RUMENSIN® in 96% ethanol and then adding the same volume of deionized water, yielding a concentration of monensin (in 48% ethanol) that would result in 5 ppm in the rumen fluid-buffer mix when 0.25 ml of the solution was added to 29.5 ml of the rumen fluid-buffer solution; finally, 0.25 ml of deionized water was added to yield a final volume of 30 ml. Each of the other treatment conditions (including the control fermentations) were modified by adding the same amount of ethanol to each as was present in the RUMENSIN® fermentation. This was done by doubling the concentration of the stock solutions, adding 0.25 ml of the stock solution (or deionized water for the controls) and 0.25 ml of 46% ethanol.

reactant | RUMENSIN | CC[C@]1(CC[C@@H](O1)[C@]2(CC[C@@]3(O2)C[C@@H]([C@H]([C@H](O3)[C@H](C)[C@@H]([C@@H](C)C(=O)[O-])OC)C)O)C)[C@@H]4[C@@H](C[C@H](O4)[C@@H]5[C@H](C[C@H]([C@@](O5)(CO)O)C)C)C.[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | monensin | 48% | CC[C@]1(CC[C@@H](O1)[C@@]2(CC[C@@]3(O2)C[C@@H]([C@H]([C@H](O3)[C@@H](C)[C@H]([C@H](C)C(=O)O)OC)C)O)C)[C@H]4[C@H](C[C@@H](O4)[C@@H]5[C@H](C[C@H]([C@@](O5)(CO)O)C)C)C | C36H62O11
